US05527955
4-(N,N-Dibenzylamino)butyramide
Hydrogen peroxide (30% w/v; 5.6 ml), tetra-n-butylammonium hydrogensulphate (1.70 g) and 5N aqueous sodium hydroxide (4 ml) were added to a stirred solution of 4-(N,N-dibenzylamino)butyronitrile (2.64 g) in dichloromethane (10 ml) with water cooling. The mixture was stirred vigorously at room temperature for 17 hours and dichloromethane (100 ml) was added. The layers were separated and the organic phase was washed with saturated aqueous sodium chloride (10 ml), dried (Na2SO4) and concentrated in vacuo to give a viscous oil (4.12 g). The product was chromatographed on silica with eluant 20% ethyl acetate/toluene→ethyl acetate and recrystallised from cyclohexane to give the title compound (1.86 g, 66%), m.p. 76°-77° C.

reactant | Hydrogen peroxide | 5.6 ml | OO | H2O2
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | 4-(N,N-dibenzylamino)butyronitrile | 2.64 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCCC#N | C18H20N2
reactant | water | O | H2O
catalyst | tetra-n-butylammonium hydrogensulphate | 1.70 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(N,N-Dibenzylamino)butyramide | 4.12 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCCC(=O)N | C18H22N2O
